US04146713
3-Ethyl-3-morpholino-2-cyanoacrylamide
A stirred mixture of cyanoacetamide (84 g.), triethylorthopropionate (193 g.) and morpholine (108 g.) was heated under reflux for 3 hours. The initial reflux temperature was 121° C. and the final reflux temperature was 91° C. At the end of the reflux period acetonitrile (50 ml.) was added, the mixture was cooled to 25° C., the crystalline precipitate was collected, and washed with 2 × 100 ml. of cold ethanol. Weight = 87 g. Yield = 42%. A sample was recrystallized from ethanol as white needles m.p. 158° C.

reactant | cyanoacetamide | 84 g | C(#N)CC(=O)N | C3H4N2O
reactant | triethylorthopropionate | 193 g | C(C)OC(CC)(OCC)OCC | C9H20O3
reactant | morpholine | 108 g | N1CCOCC1 | C4H9NO
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 3-Ethyl-3-morpholino-2-cyanoacrylamide | Yield = 42% | C(C)C(=C(C(=O)N)C#N)N1CCOCC1 | C10H15N3O2
